US08648087B2
Step C: Preparation of 1-(3-cyano-4-((dimethylamino)methyleneamino)phenyl)-3-(1-hydroxy-2-methylpropan-2-yl)thiourea:
To a cooled (−10° C.) solution of thiocarbonyldiimidazole (211 g, 1.178 mol) in THF (1.5 L) was added slowly via cannula a solution of N′-(4-amino-2-cyanophenyl)-N,N-dimethylformamidine (201.6 g, 1.071 mol) in THF (1.5 L). After stirring at −10° C. for 25 minutes, a solution of 2-amino-2-methylpropan-1-ol (120 g, 1.4 mol) in THF (500 mL) was slowly added to the mixture. After warming to room temperature and stirring for 16 hours, the mixture was washed with saturated sodium chloride (2×2 L). The combined aqueous layers were extracted with MTBE (2 L) and ethyl acetate (4×1 L). The combined organic layers were dried over MgSO4 and concentrated under reduced pressure. The residue was crystallized with MTBE and ethyl acetate to provide the product (116.9 g, 34%) as yellow solid.

reactant | thiocarbonyldiimidazole | 1.178 mol, 211 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | N′-(4-amino-2-cyanophenyl)-N,N-dimethylformamidine | 1.071 mol, 201.6 g | NC1=CC(=C(C=C1)N=CN(C)C)C#N | C10H12N4
reactant | 2-amino-2-methylpropan-1-ol | 1.4 mol, 120 g | NC(CO)(C)C | C4H11NO
solvent | THF | 1.5 L | C1CCOC1 | C4H8O
solvent | THF | 1.5 L | C1CCOC1 | C4H8O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 1-(3-cyano-4-((dimethylamino)methyleneamino)phenyl)-3-(1-hydroxy-2-methylpropan-2-yl)thiourea | 116.9 g, 34% | C(#N)C=1C=C(C=CC1N=CN(C)C)NC(=S)NC(CO)(C)C | C15H21N5OS
